US05428103
Example 7 (Comparison without ethyl acetoacetate)
In the same way as in Example 1, 60 g (0.21 mol) of tetraisopropyl titanate were reacted with 116.6 g (0.42 mol) of triethyl citrate. The mixture was freed of alcohol under vacuum and 154.6 g of a clear, pale yellow liquid was obtained.

reactant | triethyl citrate | 0.42 mol, 116.6 g | C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC | C12H20O7
catalyst | tetraisopropyl titanate | 0.21 mol, 60 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
